US04954518
3-Amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with methanesulfonyl chloride to obtain 3,7-bis(methylsulfonylamino)-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-Amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H14N2O5S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 3,7-bis(methylsulfonylamino)-6-phenoxy-4H-1-benzopyran-4-one | CS(=O)(=O)NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C17H16N2O7S2
